US08202866B2
2-(4-Bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid
The oily residue of 2-(4-bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionitrile was hydrolyzed by refluxing for 2 h with 4 mL of concentrated H2SO4 and water (38:28). The mixture was neutralized with Na2CO3, then MeOH (20 mL) was added. The solid was filtered and washed with MeOH (3×10 mL). The combined methanol solution was evaporated to give an oil. MS: calc'd 326 (MH+), exp 326 (MH+).

reactant | 2-(4-bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionitrile | BrC1=CC=C(C=C1)C(C#N)CC1CCN(CC1)C | C15H19BrN2
reactant | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(4-Bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid | BrC1=CC=C(C=C1)C(C(=O)O)CC1CCN(CC1)C | C15H20BrNO2
